US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-[2-(6-dimethylaminohexylamino)pyrimidin-4-yl]benzamide.
Using 6-(dimethylamino)-hexylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 510 (M+H)+.

reactant | 6-(dimethylamino)-hexylamine | CN(CCCCCCN)C | C8H20N2
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)ethyl]-4-[2-(6-dimethylaminohexylamino)pyrimidin-4-yl]benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCCCCCN(C)C)=O | C30H35N7O
